US08389511B2
Methyl 2-(difluoromethyl)-4-hydroxybenzoate
To methyl 2-(difluoromethyl)-4-(methoxymethoxy)benzoate (720 mg) were added 2N hydrochloric acid (6 ml) and ethanol (6 ml), and the mixture was stirred at 80° C. for 3 hours. The mixture was cooled to room temperature, and water was added thereto, and extracted with ethyl acetate. To the extract was added a saturated aqueous sodium chloride solution, and the mixture was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (500 mg).

reactant | methyl 2-(difluoromethyl)-4-(methoxymethoxy)benzoate | 720 mg | FC(C1=C(C(=O)OC)C=CC(=C1)OCOC)F | C11H12F2O4
reactant | hydrochloric acid | 2N, 6 ml | Cl | ClH
reactant | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | Methyl 2-(difluoromethyl)-4-hydroxybenzoate | 500 mg | FC(C1=C(C(=O)OC)C=CC(=C1)O)F | C9H8F2O3
